US04851578
Reacting n-octanol with ammonia in a molar ratio of 7:1 under the same reaction conditions gave tri-n-octylamine in a yield of over 95 mol%. The 2.5% by weight of di-n-octylamine formed at the same time were separated quantitatively from the reaction product, added to fresh feed and alkylated with octanol. The resulting reaction mixture likewise contained the secondary amine in amount of about 2% by weight, so that in the steady state where the secondary amine formed is being returned again and again the reaction to the tertiary amine was virtually quantitative.

reactant | ammonia | N | H3N
reactant | n-octanol | C(CCCCCCC)O | C8H18O
product | tri-n-octylamine | C(CCCCCCC)N(CCCCCCCC)CCCCCCCC | C24H51N
